US05753682
9. 4-(4-Phenylimidazol-1-yl)benzyl alcohol
Prepared from 4-phenylimidazole and 4-fluorobenzaldehyde.

reactant | 4-phenylimidazole | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-(4-Phenylimidazol-1-yl)benzyl alcohol | C1(=CC=CC=C1)C=1N=CN(C1)C1=CC=C(CO)C=C1 | C16H14N2O
